US06900215B2
3-Bromo-7-isopropylimidazo[1,2-α]pyrimidine was coupled with 2′-fluoro-5′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile as described in Example 1 to give 2′-fluoro-5′-(7-isopropylimidazo[1,2-α]pyrimidin-3-yl)biphenyl-2-carbonitrile as an off-white powder: δH (360 MHz, CDCl3) 1.38 (6H, d, J 7), 3.15 (1H, septet, J 7), 6.87 (1H, d, J 7), 7.39 (1H, t, J 9), 7.52-7.63 (4H, m), 7.71 (1H, dd, J 8 and 1), 7.83 (2H, dd, J 8 and 7), 8.74 (1H, d, J 7); m/z (ES+) 357 (M++H).

reactant | 3-Bromo-7-isopropylimidazo[1,2-α]pyrimidine | BrC1=CN=C2N1C=CC(=N2)C(C)C | C9H10BrN3
reactant | 2′-fluoro-5′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile | FC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)C=1C(=CC=CC1)C#N | C19H19BFNO2
product | 2′-fluoro-5′-(7-isopropylimidazo[1,2-α]pyrimidin-3-yl)biphenyl-2-carbonitrile | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=N2)C(C)C)C=2C(=CC=CC2)C#N | C22H17FN4
